US09163003B2
2-Chloro-5-((3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)methyl)benzonitrile
To a mixture of 3-(4-(4-methoxybenzoyl)piperidin-1-yl)pyrrolidin-2-one (70 mg, 0.232 mmol) and 5-(bromomethyl)-2-chlorobenzonitrile (80 mg, 0.347 mmol) in THF (1 mL) and DMF (0.1 mL) was added NaH (46.3 mg, 1.16 mmol, 60%). The reaction was concentrated in vacuo then taken up in dichlormethane and MeOH and filtered through a short plug of silica gel. The pooled fractions containing the title material were pooled, concentrated and neutralized with NaHCO3. MeOH was added and the solution was cooled in a freezer. The title compound was obtained by collecting the white solid via filtration (45 mg). HRMS calculated for C25H26ClN3O3 451.1671. found (ESI, [M+H]+) 452.1744.

reactant | 3-(4-(4-methoxybenzoyl)piperidin-1-yl)pyrrolidin-2-one | 0.232 mmol, 70 mg | COC1=CC=C(C(=O)C2CCN(CC2)C2C(NCC2)=O)C=C1 | C17H22N2O3
reactant | 5-(bromomethyl)-2-chlorobenzonitrile | 0.347 mmol, 80 mg | BrCC=1C=CC(=C(C#N)C1)Cl | C8H5BrClN
reactant | NaH | 1.16 mmol, 46.3 mg | [H-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-5-((3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)methyl)benzonitrile | ClC1=C(C#N)C=C(C=C1)CN1C(C(CC1)N1CCC(CC1)C(C1=CC=C(C=C1)OC)=O)=O | C25H26ClN3O3
